US04041173
Benzene-1,2,4-tricarboxylic anhydride and p-isopropylphenylacetic acid are reacted together as described in Example IA to give a mixture of benzylidenephthalide carboxylic acids. Fractional crystallization of this mixture from aqueous ethanol yields 2-(p-ispropylbenzylidene)phthalide-5-carboxylic acid as the less soluble isomer, and 4-(p-isopropylbenzylidene)phthalide-6-carboxylic acid as the more soluble isomer. By following the rest of the procedure set forth in part A of this example, 2-carboxy-7-isopropyl-10,11-dihydro-5-oxo-5H-dibenzo[a,d]cycloheptene was obtained with a m.p. of 178°-182° C.

reactant | Benzene-1,2,4-tricarboxylic anhydride | C1=CC2=C(C=C1C(=O)O)C(=O)OC2=O | C9H4O5
reactant | p-isopropylphenylacetic acid | C(C)(C)C1=CC=C(C=C1)CC(=O)O | C11H14O2
product | 4-(p-isopropylbenzylidene)phthalide-6-carboxylic acid | C(C)(C)C1=CC=C(C=C2C3COC(=O)C3=CC(=C2)C(=O)O)C=C1 | C19H18O4
